US06299868B1
Copoly(N-[3-(dimethylamino)propyl]acrylamide/acrylamide/N-dodecylacrylamide) (48:48:5)
A solution of N-[3-(dimethylamino)propyl]acrylamide (30.0 g), acrylamide (13.6 g), and N-dodecylacrylamide (4.6 g) in deionized water (50 mL) and ethanol (50 mL) was heated to 60° C. under a nitrogen atmosphere. When the solution reached 60° C., 2,2′-azobis(2-amidinopropane)dihydrochloride (2.4 g of a 20 percent aqueous solution) was added. Heating was continued for 18 hours under a nitrogen atmosphere. After cooling to room temperature, the reaction solution was dissolved in isopropanol (150 mL), and concentrated HCl (29.5 g) was added with stirring. The solution was decanted from the precipitated polymer. The polymer was suspended in isopropanol (500 mL), stirred for at least 15 minutes, and allowed to settle. After decanting, the polymer was similarly washed an additional 3 times with isopropanol. The washed polymer was dried in a forced-air oven at 70° C. to afford 81.1 g.

reactant | N-[3-(dimethylamino)propyl]acrylamide | 30.0 g | CN(CCCNC(C=C)=O)C | C8H16N2O
reactant | acrylamide | 13.6 g | C(C=C)(=O)N | C3H5NO
reactant | N-dodecylacrylamide | 4.6 g | C(CCCCCCCCCCC)NC(C=C)=O | C15H29NO
reactant | 2,2′-azobis(2-amidinopropane)dihydrochloride | Cl.Cl.N(=NC(C)(C)C(N)=N)C(C)(C)C(N)=N
reactant | HCl | 29.5 g | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | isopropanol | 150 mL | C(C)(C)O | C3H8O
product | N-[3-(dimethylamino)propyl]acrylamide acrylamide N-dodecylacrylamide | CN(CCCNC(C=C)=O)C.C(C=C)(=O)N.C(CCCCCCCCCCC)NC(C=C)=O | InChI=1S/C15H29NO.C8H16N2O.C3H5NO/c1-3-5-6-7-8-9-10-11-12-13-14-16-15(17)4-2;1-4-8(11)9-6-5-7-10(2)3;1-2-3(4)5/h4H,2-3,5-14H2,1H3,(H,16,17);4H,1,5-7H2,2-3H3,(H,9,11);2H,1H2,(H2,4,5)
